US08633319B2
Ethyl (3S)-3-fluoro-2-oxo-3-piperidinecarboxylate (50 g, 264 mmol) was dissolved in THF (100 ml) and borane-THF complex (793 ml, 793 mmol, 1M solution) was added drop wise. The mixture was heated at reflux for 24 h, cooled to room temperature and the borane quenched by addition of methanol (150 ml). 2M HCl (200 ml) was added and the mixture heated to reflux for 20 min, then cooled and evaporated in vacuo. The residue was suspended in DCM (500 ml) and triethylamine (111 ml, 793 mmol) was added, followed by BOC anhydride (73.6 ml, 317 mmol). The mixture was stirred for 3 h, then washed with water (100 ml) and 0.5M HCl (100 ml), dried and evaporated to give 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate as pale yellow crystalline solid (52.85 g).

reactant | Ethyl (3S)-3-fluoro-2-oxo-3-piperidinecarboxylate | 264 mmol, 50 g | F[C@@]1(C(NCCC1)=O)C(=O)OCC | C8H12FNO3
reactant | triethylamine | 793 mmol, 111 ml | C(C)N(CC)CC | C6H15N
reactant | BOC anhydride | 317 mmol, 73.6 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate | 52.85 g | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CO | C11H20FNO3
